US08975254B2
a) (S)-5-(bromomethyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)isoxazole-3-carboxamide
5-(Bromomethyl)isoxazole-3-carboxylic acid (1.027 g, 4.99 mmol) and DCC (1.029 g, 4.99 mmol) were dissolved in dry DCM under nitrogen atmosphere and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (1.0 g, 3.84 mmol) was added. The mixture was stirred overnight at RT and a precipitate was filtered. The filtrate was washed with water, dried and evaporated to dryness. The evaporation residue was purified by Flash-chromatography to give the title compound. Yield 83%. 1H-NMR (400 MHz; DMSO): δ 1.17 (d, 3H), 4.32 (d, 2H), 4.40-4.50 (m, 1H), 4.86 (s, 2H), 6.81 (s, 1H), 6.94 (d, 1H), 7.82 (d, 1H), 7.91 (dd, 1H), 7.97 (dd, 1H), 8.08 (dd, 1H). 8.85 (d, 1H)

reactant | 5-(Bromomethyl)isoxazole-3-carboxylic acid | 4.99 mmol, 1.027 g | BrCC1=CC(=NO1)C(=O)O | C5H4BrNO3
reactant | DCC | 4.99 mmol, 1.029 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 3.84 mmol, 1.0 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-5-(bromomethyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)isoxazole-3-carboxamide | Yield 83% | BrCC1=CC(=NO1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C18H15BrClN5O2
